US07741341B2
(iv) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-fluoro-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-fluoro-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid was prepared by a procedure according to example 81 starting from 230 mg (0.60 mmol) 5-Fluoro-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid ethyl ester and 179.5 mg (0.60 mmol) methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester. Hydrolysis of the resulting ethyl ester by treatment with LiOH and purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave the title compound as its formiate in form of a white amorphous solid.

reactant | 5-Fluoro-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid ethyl ester | 0.60 mmol, 230 mg | C(C)OC(=O)C1=C(C=CC=2NC(=NC21)C(NC2CCN(CC2)C(C)C)=O)F | C19H25FN4O3
reactant | methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester | 0.60 mmol, 179.5 mg | ClC1=CC=C(S1)C1=CC(=NO1)COS(=O)(=O)C | C9H8ClNO4S2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-fluoro-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2C(=O)O)F)C(NC2CCN(CC2)C(C)C)=O | C25H25ClFN5O4S
